US05055451
4-Methoxycarbonyl-2,6-dimethyl-benzoic acid
2,6-Dimethyl-1,4-benzenedicarboxylic acid (from Preparation 7) (5.0 g, 26mmol) was suspended in methanol (40 mL), concentrated sulfuric acid (5 mL) was added, and the mixture was heated at reflux for 2 hours. The solution was cooled, and water was added to precipitate the product. Filtration, followed by washing with water (3×) and petroleum ether (3×), and drying at high vacuum gave 2.05 g of the product as a white powder, m.p. 191°-192° C. (ref. W. A. Noyes, cited above).

reactant | 2,6-Dimethyl-1,4-benzenedicarboxylic acid | 26mmol, 5.0 g | CC1=C(C(=CC(=C1)C(=O)O)C)C(=O)O | C10H10O4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | methanol | 40 mL | CO | CH4O
product | 4-Methoxycarbonyl-2,6-dimethyl-benzoic acid | 2.05 g | COC(=O)C1=CC(=C(C(=O)O)C(=C1)C)C | C11H12O4
